US04737511
1,5-Dihydro-4-[4-(1H-imidazol-1-yl)-3-nitrophenyl]-3-methyl-2H-pyrrol-2-one
In a manner similar to that described in Preparation 10, 4-(4-fluoro-3-nitrophenyl)-1,5-dihydro-3-methyl-2H-pyrrol-2-one is reacted with imidazole to provide the title compound.

reactant | 4-(4-fluoro-3-nitrophenyl)-1,5-dihydro-3-methyl-2H-pyrrol-2-one | FC1=C(C=C(C=C1)C1=C(C(NC1)=O)C)[N+](=O)[O-] | C11H9FN2O3
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 1,5-Dihydro-4-[4-(1H-imidazol-1-yl)-3-nitrophenyl]-3-methyl-2H-pyrrol-2-one | N1(C=NC=C1)C1=C(C=C(C=C1)C1=C(C(NC1)=O)C)[N+](=O)[O-] | C14H12N4O3
